US08791132B2
To a solution of 2-(8-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol (200 mg, 0.651 mmol) in acetonitrile (4 mL), potassium carbonate (270 mg, 1.953 mmol) and bromo-acetic acid ethyl ester (163 mg, 0.977 mmol) were added and the reaction mixture was stirred at RT for 1 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was diluted with water (10 mL) and extracted with EtOAc (3×30 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated to yield [5-(2-hydroxy-2-pyridin-4-yl-ethyl)-8-methyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indol-2-yl]-acetic acid ethyl ester (220 mg). To a solution of [5-(2-hydroxy-2-pyridin-4-yl-ethyl)-8-methyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indol-2-yl]-acetic acid ethyl ester (120 mg, 0.305 mmol) in ethanol (2 mL), 1N NaOH (3 mL) was added and the reaction mixture stirred at RT for 1 h. The progress of reaction was monitored by LCMS. The reaction mixture was neutralized with aq HCl. The solvent was removed under reduced pressure and the residue diluted with 90% MeOH in DCM and filtered. The filtrate was concentrated and residue was purified by reverse phase HPLC to yield [5-(2-hydroxy-2-pyridin-4-yl-ethyl)-8-methyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indol-2-yl]-acetic acid. 1H NMR (CD3OD, formate salt) δ (ppm): 8.42 (d, 2H), 7.4 (d, 2H), 7.2 (d, 2H), 6.9 (d, 1H), 5.03 (t, 1H), 4.6 (bs, 1H), 4.57 (bs, 2H), 4.3 (m, 2H), 3.8 (s, 2H), 3.7 (bs, 2H), 3.0 (m, 1H), 2.3 (s, 3H). Separation by chiral HPLC provides enantiomers II-65a-b.

reactant | [5-(2-hydroxy-2-pyridin-4-yl-ethyl)-8-methyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indol-2-yl]-acetic acid ethyl ester | 0.305 mmol, 120 mg | C(C)OC(CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C2=CC=NC=C2)O)CC1)=O | C23H27N3O3
reactant | HCl | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | NaOH | 1N, 3 mL | [OH-].[Na+]
product | [5-(2-hydroxy-2-pyridin-4-yl-ethyl)-8-methyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indol-2-yl]-acetic acid | OC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)CC(=O)O)C2=CC=NC=C2 | C21H23N3O3
